US04870074
A mixture of 4-benzyl-2-chloromethylmorpholine (15.0 g), sodium azide (8.6 g), and dimethylformamide (150 ml) is stirred at 130° C. for 2 hours. The reaction mixture is diluted with water and extracted with diethyl ether. The organic layer is washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent is distilled off under reduced pressure to give 2-azidomethyl-4-benzylmorpholine (15 g) as an oil.

reactant | 4-benzyl-2-chloromethylmorpholine | 15.0 g | C(C1=CC=CC=C1)N1CC(OCC1)CCl | C12H16ClNO
reactant | sodium azide | 8.6 g | [N-]=[N+]=[N-].[Na+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-azidomethyl-4-benzylmorpholine | 15 g | N(=[N+]=[N-])CC1CN(CCO1)CC1=CC=CC=C1 | C12H16N4O
